US07964679B2
2,4,7-trimethylindene
9.06 g of 2,4,7 trimethylindanol (51.4 mmol) were dissolved in 100 ml of toluene in a 250 ml, 2-neck flask equipped with magnetic stirring bar, Dean-Stark separator and bubble condenser. 0.15 g of p-toluenesulphonic acid monohydrate (0.78 mmol, 0.015 eq) were added, and the solution was heated to reflux, distilling the toluene-H2O azeotrope. After about 2 h, the temperature increased toward the boiling point of toluene, and after a few drops of pure toluene distillate, the reaction was stopped by cooling to room temperature and treating the solution with 100 ml of saturated NaHCO3 aqueous solution. The organic phase was extracted with Et2O with the standard procedure, the combined organic phases were washed with H2O and then dried with Na2SO4. After filtration, the solvents were evaporated under reduced pressure to give 7.24 g of an off-white waxy product (yield: 89%).

reactant | 2,4,7 trimethylindanol | 51.4 mmol, 9.06 g | CC1C(C2=C(C=CC(=C2C1)C)C)O | C12H16O
reactant | p-toluenesulphonic acid monohydrate | 0.78 mmol, 0.15 g, 0.015 eq | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4,7-trimethylindene | 7.24 g, yield: 89% | CC=1CC2=C(C=CC(=C2C1)C)C | C12H14
